US07745663B2
To a solution of the resultant 3,4-difluoro-2-(2-fluoro-4-trimethylsilanylethynyl-phenylamino)-N-(2-hydroxy-ethoxy)-5-(2-hydroxy-ethoxymethyl)-benzamide (37.6 mg) in tetrahydrofuran (anhydrous, 1.0 ml) was added tetra-n-butylammonium fluoride (1 M solution in THF, 113 μL, 113 μmol) at room temperature, and the mixture was stirred for 3 hours. The reaction mixture was concentrated under reduced pressure. 0.1 N Hydrochloric acid was added to the resultant residue, and the mixture was extracted with ethyl acetate. The combined organic layers were washed with 0.1 N hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Presep Silica Gel Type S (Wako Pure Chemical Industries), 10 g, CH2Cl2/MeOH (10:1 to 5:1)) to give 2-(4-ethynyl-2-fluoro-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-5-(2-hydroxy-ethoxymethyl)-benzamide (21.9 mg, 68%) as a yellow powder.

reactant | 3,4-difluoro-2-(2-fluoro-4-trimethylsilanylethynyl-phenylamino)-N-(2-hydroxy-ethoxy)-5-(2-hydroxy-ethoxymethyl)-benzamide | 37.6 mg | FC=1C(=C(C(=O)NOCCO)C=C(C1F)COCCO)NC1=C(C=C(C=C1)C#C[Si](C)(C)C)F | C23H27F3N2O5Si
reactant | tetra-n-butylammonium fluoride | 113 μmol, 1 M, 113 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | 2-(4-ethynyl-2-fluoro-phenylamino)-3,4-difluoro-N-(2-hydroxy-ethoxy)-5-(2-hydroxy-ethoxymethyl)-benzamide | 21.9 mg, 68% | C(#C)C1=CC(=C(C=C1)NC1=C(C(=O)NOCCO)C=C(C(=C1F)F)COCCO)F | C20H19F3N2O5
